US07265144B2
Preparation of methyl 2-[(3-tert-butyl-1-methyl-1H-pyrazol-5-yl)amino]-5-methoxybenzoate
To a 100 mL oven dried flask, was added 5-amino-3-tert-butyl-1-methylpyrazole (2.00 g. 13.1 mmol), methyl 2-bromo-5-methoxybenzoate (2.67 g, 10.9 mmol), cesium carbonate (4.96 g, 15.2 mmol), Pd2(dba)3 (337 mg, 0.33 mmol), BINAP (338 mg, 0.54 mmol), and toluene (35 mL). The reaction mixture was degassed, placed under an N2 atmosphere, and then stirred at 110° C. for 16 h. The reaction mixture was cooled to rt, and ethyl acetate (30 mL) was added. The mixture was filtered, the filter cake washed with EtOAc (10 mL), and the filtrate concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (eluent: 10 to 30% EtOAc in hexane) to give the title compound as a light yellow oil (1.34 g, 38%). 1H NMR (400 MHz, CDCl3) δ 1.28 (s, 9H), 3.63 (s, 3H), 3.78 (s, 3H), 3.94 (s, 3H), 5.97 (s, 1H), 6.82 (d, 1H), 7.10 (dd, 1H), 7.47 (d, 1H).

reactant | 5-amino-3-tert-butyl-1-methylpyrazole | 13.1 mmol, 2.00 g | NC1=CC(=NN1C)C(C)(C)C | C8H15N3
reactant | methyl 2-bromo-5-methoxybenzoate | 10.9 mmol, 2.67 g | BrC1=C(C(=O)OC)C=C(C=C1)OC | C9H9BrO3
reactant | cesium carbonate | 15.2 mmol, 4.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.54 mmol, 338 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | Pd2(dba)3 | 0.33 mmol, 337 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[(3-tert-butyl-1-methyl-1H-pyrazol-5-yl)amino]-5-methoxybenzoate | 1.34 g, 38% | C(C)(C)(C)C1=NN(C(=C1)NC1=C(C(=O)OC)C=C(C=C1)OC)C | C17H23N3O3
